US04772600
2-(4-Methoxyphenyl)-N,N-dipropyl-3H-imidazo[4,5-b]pyridine-3-acetamide
Under nitrogen bubbling, a mixture of 2-(4-methoxyphenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (4.2 g, 0.015 mole) and 1,1'-carbonyldiimidazole (2.43 g, 0.015 mole) in 120 ml of tetrahydrofuran was stirred at room temperature for 3 hrs. The dipropylamine (3.04 g, 0.03 mole) was added and the reaction mixture was allowed to stir at room temperature overnight, then heated at reflux for 8 hrs. The reaction mixture was filtered and the filtrate was evaporated to dryness, then placed under high vacuum over the weekend. The residue was treated with water and the solid was collected by filtration, washed wth water, and dried under high vacuum. The solid was dissolved in 100 ml of isopropyl alcohol, filtered, and the filtrate concentrated to 50 ml. The filtrate was diluted with water, seeded, and placed in a freezer overnight. The solid was collected by filtration, washed with water, and dried under high vacuum at 50°-60° C. overnight to give 1.8 g (33%) of title compound, mp 127°-29° C.

reactant | 2-(4-methoxyphenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.015 mole, 4.2 g | COC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C15H13N3O3
reactant | 1,1'-carbonyldiimidazole | 0.015 mole, 2.43 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | dipropylamine | 0.03 mole, 3.04 g | C(CC)NCCC | C6H15N
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 2-(4-Methoxyphenyl)-N,N-dipropyl-3H-imidazo[4,5-b]pyridine-3-acetamide | 1.8 g, 33% | COC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)N(CCC)CCC | C21H26N4O2
